US08633211B2
[(R)-1-(2-{1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
To a vial charged with {1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid (50.9 mg, 0.11 mmol), HATU (49.4 mg, 0.12 mmol), and (R)-Pyrrolidin-3-yl-carbamic acid tert butyl ester (25.7 mg, 0.12 mmol), DMF (3 ml) is added. The stirring mixture is treated with DIPEA (33 μL, 0.275 mmol) and stirred at RT for 1 hour. Water is added to the mixture with stirring giving rise to a solid. This is filtered off and washed with water to afford the title compound, [M+H]+ 616

reactant | {1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid | 0.11 mmol, 50.9 mg | ClC=1C(=CC(=C(C1)NC(=O)CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)O)=O)OC)OC | C20H18ClN3O7
reactant | HATU | 0.12 mmol, 49.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-Pyrrolidin-3-yl-carbamic acid tert butyl ester | 0.12 mmol, 25.7 mg | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
reactant | DIPEA | 0.275 mmol, 33 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | [(R)-1-(2-{1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(CN1C(N(C2=CC=CC=C2C1=O)CC(NC1=C(C=C(C(=C1)Cl)OC)OC)=O)=O)=O)=O | C29H34ClN5O8
